US04952574
Using the method of Example I Part A, 13.1 g (0.04 mole) of 5-hydroxy-N-(2-pyridylmethyl)-2-(2,2,2-trifluoroethoxy)benzamide was reacted with 11.7 g (0.056 mole) of ethyl 5-bromovalerate to give 13.7 g of white 5-(4-ethoxycarbonylbutoxy))-N-(2-pyridylmethyl)-2-(2,2,2-trifluoroethoxy)benzamide, m.p. 83°-84° C.

reactant | 5-hydroxy-N-(2-pyridylmethyl)-2-(2,2,2-trifluoroethoxy)benzamide | 0.04 mole, 13.1 g | OC=1C=CC(=C(C(=O)NCC2=NC=CC=C2)C1)OCC(F)(F)F | C15H13F3N2O3
reactant | ethyl 5-bromovalerate | 0.056 mole, 11.7 g | BrCCCCC(=O)OCC | C7H13BrO2
product | N-(2-pyridylmethyl)-2-(2,2,2-trifluoroethoxy)benzamide | N1=C(C=CC=C1)CNC(C1=C(C=CC=C1)OCC(F)(F)F)=O | C15H13F3N2O2
